US08835653B2
1.3) 1,3-Dibromo-2-ethyl-benzene (Intermediate 3)
A three necked round-bottom flask was purged with argon and then filled with dry THF (1.2 l), 1,3-dibromo benzene (121 g, 0.514 mol) and ethyl iodide (95.4 g, 0.611 mol). The mixture was cooled to −78° C. and LDA (64.2 g, 0.697 mol) (2 M in THF/n-heptane/ethyl benzene) was added slowly in a way that the temperature did not rise above −65° C. After stirring for 2.75 h the reaction was poured onto 1 l sat. aq. NH4Cl solution and stirred vigorously for 20 min. Two times extraction with DCM yielded colorless oil (167 g) which was used in the next step without further purification.

reactant | 1,3-dibromo benzene | 0.514 mol, 121 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | ethyl iodide | 0.611 mol, 95.4 g | C(C)I | C2H5I
reactant | LDA | 0.697 mol, 2 M, 64.2 g | [Li+].CC(C)[N-]C(C)C
reactant | NH4Cl | 1 l | [NH4+].[Cl-]
solvent | THF | 1.2 l | C1CCOC1 | C4H8O
product | 1,3-Dibromo-2-ethyl-benzene | BrC1=C(C(=CC=C1)Br)CC | C8H8Br2
